US06933311B2
3,5-difluoro-4-azepan-1-ylbenzonitrile
The title compound was prepared using the procedure described in Example 325A except using 3,4,5-trifluorobenzonitrile and azepane instead of 3,4-difluorobenzonitrile and 8-aza-bicyclo[3.2.1]octane hydrochloride. 1H NMR (DMSO-d6) δ 7.62 (d, 2H), 3.39 (m, 4H), 1.73 (m, 4H), 1.61 (m, 4H); MS (ESI) m/z 237 (M+H)+.

reactant | 3,4,5-trifluorobenzonitrile | FC=1C=C(C#N)C=C(C1F)F | C7H2F3N
reactant | azepane | N1CCCCCC1 | C6H13N
reactant | 8-aza-bicyclo[3.2.1]octane hydrochloride | Cl.C12CCCC(CC1)N2
product | 3,5-difluoro-4-azepan-1-ylbenzonitrile | FC=1C=C(C#N)C=C(C1N1CCCCCC1)F | C13H14F2N2
